US07507734B2
a) 6-(2-methoxyvinyl)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester
1.23 g methoxymethyltriphenylphoshonium chloride is suspended in 10 mL THF and cooled to −78° C. 2.20 mL butyllithium (1.6 M in hexanes) is added dropwise and the resulting mixture is stirred for 30 min at −78° C. and then warmed in an ice bath to 0° C. After addition of a solution of 734 mg 6-formyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester (see above) in 5 mL THF, the reaction mixture is heated to reflux for 5 hours. After cooling to rt, the reaction mixture is diluted with heptanes, washed with water, dried (MgSO4) and concentrated in vacuo. The resulting 280 mg crude enol ether is directly used in the next step.

reactant | methoxymethyltriphenylphoshonium chloride | 1.23 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 1.6 M, 2.20 mL | C(CCC)[Li]
reactant | 6-formyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 734 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C=O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C24H22N4O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(2-methoxyvinyl)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C=COC)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C26H26N4O4
